US04451462
A solution of 6.5 g (31.5 mmoles) of dicyclohexylcarbodiimide in 40 ml of absolute methylene chloride is added at room temperature in the course of approximately 3 minutes to a solution of 8.1 g (30 mmoles) of crude 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid in 50 ml of absolute methylene chloride. The reaction mixture is stirred at room temperature for 30 minutes. The precipitated dicyclohexylurea is filtered off with suction and washed with methylene chloride. The filtrate is concentrated by evaporation in a vacuum rotary evaporator and the residue is chromatographed over silica gel with the eluant methylene chloride/hexane (1:1). Recrystallisation from hexane yields 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one having a melting point of 129°-131° C.

reactant | dicyclohexylcarbodiimide | 31.5 mmoles, 6.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid | 30 mmoles, 8.1 g | ClC=1C(=CC(=C(C1)CC(=O)O)O)N1CCCCC1 | C13H16ClNO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one | ClC=1C(=CC2=C(CC(O2)=O)C1)N1CCCCC1 | C13H14ClNO2
